US03998958
A 6.73 g. (0.05 mole) sample of 2-imino-1-methylpyrrolidine HCl is treated with 50 ml. of benzene and 2 ml. of water. With stirring, 10 ml. of 50% sodium hydroxide is added. After stirring about one minute, the benzene layer is decanted onto anhydrous K 2 CO 3 and the extraction repeated twice with 50 ml. portions of benzene. The dried, combined extracts are filtered from the drying agent and the filtrate is treated with 6.66 g. (0.05 mole) of o-tolylisocyanate. After stirring overnight, the mixture is filtered from a small amount of insoluble material and the solvent removed in vacuo. Recrystallization from ethyl acetate and finally from ether gives the pure product, 1-(1-methyl-2-pyrrolidylidene)-3-o-tolyl urea, m.p. = 91°- 93° C.

reactant | 2-imino-1-methylpyrrolidine HCl | Cl.N=C1N(CCC1)C
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | o-tolylisocyanate | 0.05 mole | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | water | O | H2O
product | 1-(1-methyl-2-pyrrolidylidene)-3-o-tolyl urea | CN1C(CCC1)=NC(=O)NC1=C(C=CC=C1)C | C13H17N3O
